US04310540
7.2 g of potassium cyanide were dissolved in 30 ml of water and 6 ml of ethanol, while cooling. 16 g of 2-difluoromethoxybenzaldehyde were then added at 0°-5° C., while cooling. After subsequently stirring the mixture between 0° and 10° C. for 20 minutes, a mixture of 7 ml of concentrated H2SO4 and 18 ml of water was added dropwise. The mixture was subsequently stirred for a further 2 hours and was thereby allowed to come to room temperature. After extracting twice with methylene chloride, the organic phase was dried and the solvent was distilled off. 2-Difluoromethoxy-α-cyano-benzyl alcohol was obtained as a colorless oil, the structure of which was confirmed by a nuclear magnetic resonance spectrum. The yield was virtually quantitative.

reactant | potassium cyanide | 7.2 g | [C-]#N.[K+]
reactant | 2-difluoromethoxybenzaldehyde | 16 g | FC(OC1=C(C=O)C=CC=C1)F | C8H6F2O2
reactant | H2SO4 | 7 ml | OS(=O)(=O)O | H2O4S
solvent | water | 30 ml | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 18 ml | O | H2O
product | 2-Difluoromethoxy-α-cyano-benzyl alcohol | FC(OC1=C(C(C#N)O)C=CC=C1)F | C9H7F2NO2
